US07091214B2
1-(2-Aminoethyl)-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine (2.00 g, 5.50 mmol) was treated with triethylamine (1.00 mL, 7.20 mmol) and isobutyryl chloride (0.64 mL, 6.10 mmol) according to the method described in Part B of Examples 372–376. The crude product was recrystallized from 93:7 acetonitrile:water and then from isopropanol (7.3 mL/g) and dried for two hours in a drying oven to provide 0.78 g of N-{2-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}-2-methylpropanamide as a white solid, mp 213–215° C.

reactant | 1-(2-Aminoethyl)-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.50 mmol, 2.00 g | NCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=2C=NC=CC2)N)COCC | C20H22N6O
reactant | triethylamine | 7.20 mmol, 1.00 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 6.10 mmol, 0.64 mL | C(C(C)C)(=O)Cl | C4H7ClO
product | N-{2-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}-2-methylpropanamide | 0.78 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCNC(C(C)C)=O)COCC)C=2C=NC=CC2 | C24H28N6O2
